US06599917B1
b) 2-Benzyl-6-(cis-3,4-methylenedioxypyrrolidine-1-yl)-3-iodopyridine
143 mg of N-iodosuccinic acid imide was added little by little to a mixture of 150 mg of 2-benzyl-6-(cis-3,4-methylenedioxypyrrolidine-1-yl)pyridine and 5.0 ml of N,N-dimethylformamide under ice-cooling, followed by stirring overnight as it was. The reaction solution was poured into water, and then extracted with ethyl acetate. The organic phase was washed with sodium thiosulfate, water and brine, and the solvent was removed. The residue was subjected to silica gel column chromatography and eluted with hexane and then with hexane/ethyl acetate (4:1), to give 116 mg of the target compound.

reactant | N-iodosuccinic acid imide | 143 mg | IN1C(CCC1=O)=O | C4H4INO2
reactant | 2-benzyl-6-(cis-3,4-methylenedioxypyrrolidine-1-yl)pyridine | 150 mg | C(C1=CC=CC=C1)C1=NC(=CC=C1)N1C[C@H]2[C@@H](C1)OCO2 | C17H18N2O2
reactant | N,N-dimethylformamide | 5.0 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-Benzyl-6-(cis-3,4-methylenedioxypyrrolidine-1-yl)-3-iodopyridine | 116 mg | C(C1=CC=CC=C1)C1=NC(=CC=C1I)N1C[C@H]2[C@@H](C1)OCO2 | C17H17IN2O2
